US09145441B2
Compound 120b. (S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-phenyl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To a solution of (S)-1-((S)-2-tert-butoxycarbonylamino-3-phenyl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (1.0 g, 2.0 mmol) in anhydrous dichloromethane (7 mL) at 0° C. and under an atmosphere of nitrogen was added trifluoroacetic acid (1.5 mL, 19.7 mmol). The reaction mixture was warmed to room temperature and stirred for 2 h before concentrating in vacuo. The residue was dissolved in anhydrous acetonitrile (11 mL), cooled to 0° C. and under an atmosphere of nitrogen was added N,N-diisopropylethylamine (1.8 mL, 9.8 mmol), N-Boc-Val-OH (428 mg, 2.0 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (1.1 g, 2.8 mmol). After 16 h at room temperature the reaction was diluted with ethyl acetate and quenched with hydrochloric acid (1 M). The organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate and brine. The organic layer was then dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 1:1 to give the title compound (1.0 g, 84%) as a viscous oil. 1H NMR (300 MHz, CDCl3) δ 0.89 (d, J=6.7 Hz, 3H), 0.95 (d, J=6.9 Hz, 3H), 1.47 (s, 9H), 1.47-1.56 (m, 1.72-1.94 (m, 2H), 2.08-2.20 (m, 1H), 2.23-2.36 (m, 1H), 2.67-2.84 (m, 1H), 2.91 (dd, J=12.9, 9.4 Hz, 1H), 3.05 (dd, J=12.9, 5.4 Hz, 1H), 3.53 (d, J=10.9 Hz, 1H), 3.90-4.03 (m, 1H), 4.23-4.36 (m, 1H), 4.70, 4.84 (ABq, J=12.0 Hz, 2H), 5.00-5.14 (m, 1H), 5.73-5.86 (m, 1H), 6.55 (d, J=8.3 Hz, 1H), 7.16-7.34 (m, 5H). LCMS (m/z) 607.1 [M+H], Tr=3.24 min.

reactant | (S)-1-((S)-2-tert-butoxycarbonylamino-3-phenyl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 2.0 mmol, 1.0 g | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C21H28Cl3N3O5
reactant | trifluoroacetic acid | 19.7 mmol, 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-diisopropylethylamine | 9.8 mmol, 1.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Boc-Val-OH | 2.0 mmol, 428 mg | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 2.8 mmol, 1.1 g | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-phenyl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.0 g, 84% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CC1=CC=CC=C1)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C26H37Cl3N4O6
